US08377949B2
(S)-(4-Chloro-phenyl)-[1-(4,6-dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-acetic acid
To a solution of (S)-(4-Chloro-phenyl)-[1-(4,6-dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-acetic acid ethyl ester (50 mg, 0.094 mmol) in 1,4-dioxane (10 mL) and water (1 mL) is added LiOH (6.7 mg, 0.28 mmol) at room temperature. The solution is stirred at the same temperature for 4 hours. The solution is concentrated and water is added to the residue. The solution is acidified by 12N HCl in an ice-bath. The precipitated solid is collected by filtration to afford the title compound.: LCMS (ESMS): m/z 506.10 (M+H+)

reactant | (S)-(4-Chloro-phenyl)-[1-(4,6-dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-acetic acid ethyl ester | 0.094 mmol, 50 mg | C(C)OC([C@@H](N1C(N(C2=CC=CC=C2C1=O)CC1=NSC2=C1C(=CC(=C2)C)C)=O)C2=CC=C(C=C2)Cl)=O | C28H24ClN3O4S
reactant | LiOH | 0.28 mmol, 6.7 mg | [Li+].[OH-]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | (S)-(4-Chloro-phenyl)-[1-(4,6-dimethyl-1,2-benzisothiazol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-acetic acid | ClC1=CC=C(C=C1)[C@@H](C(=O)O)N1C(N(C2=CC=CC=C2C1=O)CC1=NSC2=C1C(=CC(=C2)C)C)=O | C26H20ClN3O4S
